US05506256
A) (2S)-1-(tert-Butoxycarbonyl)-2-{1-hydroxy-2-[(3,4-methylenedioxy)phenoxy]ethyl} pyrrolidine
By the same procedure as in Example 26-B), while using (2S)1-(tert-butoxycarbonyl)-2-(1,2-epoxyethyl)Pyrrolidine (2.00 g) and (3,4-methylenedioxy)phenol (2.72 g), there was obtained 2.41 g of the title compound.

reactant | (2S)1-(tert-butoxycarbonyl)-2-(1,2-epoxyethyl)Pyrrolidine | 2.00 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C1CO1 | C11H19NO3
reactant | (3,4-methylenedioxy)phenol | 2.72 g | C1OC=2C=C(C=CC2O1)O | C7H6O3
product | (2S)-1-(tert-Butoxycarbonyl)-2-{1-hydroxy-2-[(3,4-methylenedioxy)phenoxy]ethyl} pyrrolidine | 2.41 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(COC1=CC2=C(C=C1)OCO2)O | C18H25NO6
